US06231833B1
(7RS,9aSR)-7-Phenoxymethyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture of (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (U.S. Pat. No. 5,326,874) and 3,6-dichloropyridazine were combined according to Preparation 3. The product from this reaction was coupled with phenol according to Example 1 to give the title compound. mp (—HCl) >265° C. (dec). HRMS calcd for C19H23ClN4O: 358.1555, found: 358.1550.

reactant | (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | OCC1CCC2N(CCNC2)C1 | C9H18N2O
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | (7RS,9aSR)-7-Phenoxymethyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | O(C1=CC=CC=C1)CC1CCC2N(CCN(C2)C=2N=NC(=CC2)Cl)C1 | C19H23ClN4O
